US07384934B2
6,7-Difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Add 2-(4,5-difluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile (94.0 g, 318 mmol) and tin (II) chloride dihydrate (225 g, 997 mmol) to ethanol (1400 mL) and aqueous 6N HCl (1400 mL) with stirring under nitrogen. Heat at gentle reflux (86-87° C.) for 0.3 hours, and then allow cooling to ambient temperature. Filter, rinse with water (3×250 mL) and dry at 50-60° C. to give 95.7 g (100%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 11.41 (bs, 1H), 9.84 (bs, 1H), 9.33 (bs, 1H), 8.93 (bs, 1H), 7.00 (m, 2H), 6.85 (s, 1H), 2.28 (s, 3H). HRMS (ES) exact mass M+H calcd for C12H9F2N3S (freebase) 266.0563; found 266.0555.

reactant | 2-(4,5-difluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 318 mmol, 94.0 g | FC1=CC(=C(C=C1F)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H7F2N3O2S
reactant | tin (II) chloride dihydrate | 997 mmol, 225 g | O.O.[Sn](Cl)Cl
reactant | HCl | 6N, 1400 mL | Cl | ClH
solvent | ethanol | 1400 mL | C(C)O | C2H6O
product | 6,7-Difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 95.7 g, 100% | Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N)C)C1)F | InChI=1S/C12H9F2N3S.ClH/c1-5-2-6-11(15)16-9-3-7(13)8(14)4-10(9)17-12(6)18-5;/h2-4,17H,1H3,(H2,15,16);1H
